US07795247B2
Step 1: Methyl 3-cyclohexyl-2-(2-vinylphenyl)-1H-indole-6-carboxylate
Methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (prepared as described in WO 2004065367) and (2-vinylphenyl)boronic acid (1.5 eq) were dissolved in dioxane (0.07 M) and 2M aqueous Na2CO3 (6 eq) was added. The solution was degassed by bubbling argon, Pd(PPh3)2Cl2 (0.2 eq) was added, and the reaction mixture was refluxed for 1 h; after cooling, EtOAc was added, and the solution washed with water and brine, dried over Na2SO4 and concentrated in vacuo. The title compound was isolated by chromatography (PE/EtOAc 9:1) in 91% yield; MS (ES+) m/z 360 (M+H)+.

reactant | Methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | (2-vinylphenyl)boronic acid | 1.5 eq | C(=C)C1=C(C=CC=C1)B(O)O | C8H9BO2
reactant | Na2CO3 | 2M, 6 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 0.07 M | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.2 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 3-cyclohexyl-2-(2-vinylphenyl)-1H-indole-6-carboxylate | 91% yield | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=CC=C1)C=C | C24H25NO2
